US09108983B2
2-[4-(Ethoxycarbonyl)-1-methyl-1H-pyrrol-2-yl]benzoic acid
The procedure is in accordance with the process of Preparation 1, replacing, on the one hand, the ethyl 2-methyl-1H-pyrrole-3-carboxylate used in Step A by ethyl 1H-pyrrole-3-carboxylate and, on the other hand, the 2-bromo-4-chlorobenzaldehyde used in Step B by 2-bromo-benzaldehyde.

reactant | ethyl 2-methyl-1H-pyrrole-3-carboxylate | CC=1NC=CC1C(=O)OCC | C8H11NO2
reactant | ethyl 1H-pyrrole-3-carboxylate | N1C=C(C=C1)C(=O)OCC | C7H9NO2
reactant | 2-bromo-4-chlorobenzaldehyde | BrC1=C(C=O)C=CC(=C1)Cl | C7H4BrClO
reactant | 2-bromo-benzaldehyde | BrC1=C(C=O)C=CC=C1 | C7H5BrO
product | 2-[4-(Ethoxycarbonyl)-1-methyl-1H-pyrrol-2-yl]benzoic acid | C(C)OC(=O)C=1C=C(N(C1)C)C1=C(C(=O)O)C=CC=C1 | C15H15NO4
